US04242510
N,N-dimethylformamide (0.175 g.), phosphoryl chloride (0.367 g.) and ethyl acetate (0.5 ml.) were treated in a conventional manner to prepare a Vilsmeier reagent and the reagent was added to ethyl acetate (5 ml.). To the solution was added 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetic acid (syn isomer, 0.500 g.) at -15° C. and stirred at the same temperature for 20 minutes to give an activated acid solution. The solution was added all at once to a solution of 7-amino-3-cephem-4-carboxylic acid (0.524 g.), trimethylsilylacetamide (1.4 g.) and bis(trimethylsilyl)acetamide (1.5 ml.) in ethyl acetate (7.5 ml.) at -15° C. and stirred at the same temperature for 2 hours. Water (10 ml.) was added to the resultant solution, adjusted to pH 7.0 with an aqueous solution of sodium bicarbonate and the aqueous layer was separated. The aqueous solution was adjusted to pH 3 with 10% hydrochloric acid. The precipitates were collected by filtration and washed with water to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.73 g.).

reactant | phosphoryl chloride | 0.367 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetic acid | 0.500 g | O1CCSC=C1C(C(=O)O)=NOCC=C | C9H11NO4S
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.524 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 1.4 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 1.5 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 0.175 g | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-allyloxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.73 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC=C | C16H17N3O6S2
